US05708008
N-methyl-N-phenyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea
Beginning with 13.0 mg (0.056 mMol) 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole and 10.1 mg (0.059 mMol) N-methyl-N-phenyl carbamoyl chloride, 17.4 (86%) of the title compound were recovered.

reactant | 5-amino-3-(1-methyl-piperidin-4-yl)-1H-indole | 0.056 mMol, 13.0 mg | NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C | C14H19N3
reactant | N-methyl-N-phenyl carbamoyl chloride | 0.059 mMol, 10.1 mg | CN(C(=O)Cl)C1=CC=CC=C1 | C8H8ClNO
product | N-methyl-N-phenyl-N'-(3-(1-methylpiperidin-4-yl)-1H-indol-5-yl)urea | CN(C(=O)NC=1C=C2C(=CNC2=CC1)C1CCN(CC1)C)C1=CC=CC=C1 | C22H26N4O
